US04136256
Preparation of N-(t-butyloxycarbonyl)-4-(n-hexadecylamino)benzoyl-imidazole
A solution of 10 g. of 4-(n-hexadecylamino)benzoic acid in 100 ml. dioxane is treated with 4.0 g. of t-butylazidoformate and 10 ml. pyridine. After stirring at room temperature for 18 hours, the protected amido-acid is precipitated from solution by addition of 150 ml. of water. The product is collected and thoroughly dried. The crude product is dissolved in 200 ml. of a mixture consisting of methylene chloride/dimethoxy ethane/pyridine (1:4:1), and to this is added 5.4 g. of 1,1'-carbonyldiimidazoye. The solution is stirred overnight at room temperature and the solvents are evaporated to yield the title compound as a thick, orange oil.

reactant | 4-(n-hexadecylamino)benzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | t-butylazidoformate | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(t-butyloxycarbonyl)-4-(n-hexadecylamino)benzoyl-imidazole | C(C)(C)(C)OC(=O)N1C(=NC=C1)C(C1=CC=C(C=C1)NCCCCCCCCCCCCCCCC)=O | C31H49N3O3
